.model BC327-25 PNP(IS=1.08E-13 NF=0.99 ISE=2.713E-14 NE=1.4 BF=385.7 IKF=0.3603 VAF=31.29 NR=0.9849 ISC=5.062E-13 NC=1.295 BR=20.57 IKR=0.054 VAR=11.62 RB=1 IRB=1.00E-06 RBM=0.5 RE=0.1415 RC=0.2623 XTB=0 EG=1.11 XTI=3 CJE=5.114E-11 VJE=0.8911 MJE=0.4417 TF=7.359E-10 XTF=1.859 VTF=3.813 ITF=0.4393 PTF=0 CJC=2.656E-11 VJC=0.62 MJC=0.4836 XCJC=0.459 TR=5.00E-08 CJS=0 VJS=0.75 MJS=0.333 FC=0.99 Vceo=45 Icrating=500m mfg=Philips)
.model BC337-25 NPN(IS=4.13E-14 NF=0.9822 ISE=3.534E-15 NE=1.35 BF=292.4 IKF=0.9 VAF=145.7 NR=0.982 ISC=1.957E-13 NC=1.3 BR=23.68 IKR=0.1 VAR=20 RB=60 IRB=2.00E-04 RBM=8 RE=0.1129 RC=0.25 XTB=0 EG=1.11 XTI=3 CJE=3.799E-11 VJE=0.6752 MJE=0.3488 TF=5.4E-10 XTF=4 VTF=4.448 ITF=0.665 PTF=90 CJC=1.355E-11 VJC=0.3523 MJC=0.3831 XCJC=0.455 TR=3.00E-08 CJS=0 VJS=0.75 MJS=0.333 FC=0.643 Vceo=45 Icrating=500m mfg=Philips)
.model 2N3904 NPN(IS=1E-14 VAF=100 Bf=300 IKF=0.4 XTB=1.5 BR=4 CJC=4E-12 CJE=8E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40 Icrating=200m mfg=Philips)

.SUBCKT MMDT3904 E1 B1 C2 E2 B2 C1
Q1 C1 B1 E1 2N3904
Q2 C2 B2 E2 2N3904
.ENDS MMDT3904

