.model BAT54 D(Is=.1u Rs=2.2 N=1 Cjo=12p M=.3 Eg=.69 Xti=2 Iave=300m Vpk=30 mfg=Vishay type=Schottky)
.SUBCKT BAT54SW A K AK
D1 A AK BAT54
D2 AK K BAT54
.ENDS BAT54SW
.SUBCKT BAT54C A1 A2 K
D1 A1 K BAT54
D2 A2 K BAT54
.ENDS BAT54C
.SUBCKT BAT54AW K1 K2 A
D1 A K1 BAT54
D2 A K2 BAT54
.ENDS BAT54AW
.MODEL SS14 D IS=8.696e-05 N=1.5 RS=2.2030e-2 CJO=2.2854e-10 M=0.4517 VJ=0.4905 BV=40 IBV=2.5e-4 EG=0.68 TT=1.0e-8 Iave=1 Vpk=40 mfg=Fairchild type=Schottky
